US04363909
Propylene oxide (0.8 g) is added to a solution of (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride (0.5 g) in methanol (30 cc). The mixture is stirred for 16 hours at a temperature of the order of 20° C. The precipitate which was formed is filtered off and dried under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. to yield (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline (0.2 g), which is a white solid, m.p.=185° C.

reactant | Propylene oxide | 0.8 g | C1C(C)O1 | C3H6O
reactant | (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride | 0.5 g | Cl.C(=O)(O)CC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2
solvent | methanol | 30 cc | CO | CH4O
product | (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline | 0.2 g | C(=O)(O)CC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C16H15N3O2S2
